US06518264B2
2 cm3 of pyridine and then 10.4 mg of methyl chloroformate are successively added, at a temperature close to 20° C., to 54.25 mg of 1-[3-({1-[bis-(4-chlorophenyl)methyl]azetidin-3-ylidene}methanesulfonylmethyl)phenyl]piperazine. After stirring for 6 hours at a temperature close to 20° C., the reaction medium is concentrated to dryness under reduced pressure (5 kPa) at a temperature close to 30° C. The residue obtained is taken up in 5 cm3 of ethyl acetate and 5 cm3 of water. After separating after settling out, the organic phase is washed with 2 cm3 of water, dried over magnesium sulfate, filtered and concentrated to dryness under reduced pressure (1 kPa) at a temperature close to 40° C. 62 mg of 4-[3-({1-[bis-(4-chlorophenyl)methyl]azetidin-3-ylidene}methanesulfonylmethyl)phenyl]piperazine-1-carboxylic acid methyl ester are thus obtained in the form of a beige lacquer [1H NMR spectrum (400 MHz, CDCl3), δ in ppm): 2.75 (s, 3H), 3.15 (broad t, J=5.5 Hz, 4H), 3.62 (mt, 4H), 3.74 (s, 3H), 3.80 (mt, 2H), 4.32 (mt, 2H), 4.49 (s, 1H), 6.81 (d, J=8 Hz, 1H), 6.90 (dd, J=8 and 2.5 Hz, 1H), 6.99 (broad s, 1H), from 7.20 to 7.40 (mt, 9H)].

reactant | pyridine | 2 cm3 | N1=CC=CC=C1 | C5H5N
reactant | methyl chloroformate | 10.4 mg | ClC(=O)OC | C2H3ClO2
reactant | 1-[3-({1-[bis-(4-chlorophenyl)methyl]azetidin-3-ylidene}methanesulfonylmethyl)phenyl]piperazine | 54.25 mg | ClC1=CC=C(C=C1)C(N1CC(C1)=CS(=O)(=O)CC=1C=C(C=CC1)N1CCNCC1)C1=CC=C(C=C1)Cl | C28H29Cl2N3O2S
solvent | ethyl acetate | 5 cm3 | C(C)(=O)OCC | C4H8O2
solvent | water | 5 cm3 | O | H2O
product | 4-[3-({1-[bis-(4-chlorophenyl)methyl]azetidin-3-ylidene}methanesulfonylmethyl)phenyl]piperazine-1-carboxylic acid methyl ester | 62 mg | COC(=O)N1CCN(CC1)C1=CC(=CC=C1)CS(=O)(=O)C=C1CN(C1)C(C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl | C30H31Cl2N3O4S
